US07432287B2
After adding 20.4 g (0.68 mol) of 1-bromo-2-fluoro-4-iodobenzene, 20.8 g (0.64 mol) of cesium carbonate and 5.07 g (0.64 mol) of copper (II) oxide to a solution of 9.00 g (0.43 mol) of 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester in pyridine (50.0 ml), the mixture was stirred at 130° C. for 8 hours under a nitrogen atmosphere. The reaction mixture was filtered and then concentrated under reduced pressure, acetic acid ethyl ester and saturated aqueous ammonium chloride were added to the obtained residue, and the organic layer was washed with brine, dried and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane:acetic acid ethyl ester=9:1) to obtain 10.6 g of 3-(4-bromo-3-fluoro-phenoxy)-5-methoxymethoxybenzoic acid methyl ester (yield: 65%) as a yellow oil.

reactant | 1-bromo-2-fluoro-4-iodobenzene | 0.68 mol, 20.4 g | BrC1=C(C=C(C=C1)I)F | C6H3BrFI
reactant | cesium carbonate | 0.64 mol, 20.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester | 0.43 mol, 9.00 g | COC(C1=CC(=CC(=C1)O)OCOC)=O | C10H12O5
solvent | pyridine | 50.0 ml | N1=CC=CC=C1 | C5H5N
catalyst | copper (II) oxide | 0.64 mol, 5.07 g | [Cu]=O
product | 3-(4-bromo-3-fluoro-phenoxy)-5-methoxymethoxybenzoic acid methyl ester | 10.6 g, yield: 65% | COC(C1=CC(=CC(=C1)OCOC)OC1=CC(=C(C=C1)Br)F)=O | C16H14BrFO5
